US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-[N-(3-pyridylmethyl)-N-methylamino]phenyl]urea:
To a solution of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(3-pyridylmethylamino)-phenyl]urea (476 mg, 0.752 mmol) in methanol (5 ml) are added a 37% aqueous formaldehyde solution (122 mg, 1.50 ml) and conc. hydrochloric acid (0.13 ml, 1.50 ml) at room temperature. The mixture is cooled with ice, and the thereto is added sodium cyanoborohydride (71.0 mg, 1.13 ml), and the mixture is stirred at room temperature for 5 hours. To the mixture is added water, and the mixture is extracted with ethyl acetate. The organic layer is extracted twice with sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give the title compound (445 mg, 0.684 mmol) as colorless amorphous.

reactant | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-(3-pyridylmethylamino)-phenyl]urea | 0.752 mmol, 476 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)NCC=1C=NC=CC1)C(C)C)=O | C38H44N6O3
reactant | formaldehyde | 1.50 ml, 122 mg | C=O | CH2O
reactant | hydrochloric acid | 0.13 ml | Cl | ClH
reactant | sodium cyanoborohydride | 1.13 ml, 71.0 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N′-[2,6-diisopropyl-4-[N-(3-pyridylmethyl)-N-methylamino]phenyl]urea | 0.684 mmol, 445 mg | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=C(C=C1C(C)C)N(C)CC=1C=NC=CC1)C(C)C)=O | C39H46N6O3
